US07842694B2
N-(1-Ethyl-1H-pyrazol-3-yl)-3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(phenylmethyl)oxy]benzamide
HATU (23.5 g, 61.83 mmol) was added to 3-[(1S)-2-methoxy-(1-methylethyl)oxy]-5-{[phenylmethyl]oxy}benzoic acid (16.28 g, 51.53 mmol) followed by addition of DMF (140 mL) and cooled to 0° C. 1-Ethyl-1H-pyrazol-3-amine (6.86 g, 61.8 mmol) was added followed by DIPEA (21.3 mL) and the reaction stirred under argon, at 0° C., for 3 hours. The solvent volume was reduced and the residue was dissolved in ethyl acetate (500 mL), washed with citric acid (200 mL), sodium hydrogen carbonate solution (150 mL) and saturated brine solution (2×150 mL). The organic layer was separated and dried (MgSO4), filtered and evaporated. Purification by column chromatography on silica, eluting with 10-50% ethyl acetate in hexanes, afforded the title compound as a pale yellow oil (19.1 g).

reactant | HATU | 61.83 mmol, 23.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-[(1S)-2-methoxy-(1-methylethyl)oxy]-5-{[phenylmethyl]oxy}benzoic acid | 51.53 mmol, 16.28 g | COC[C@H](C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C18H20O5
reactant | 1-Ethyl-1H-pyrazol-3-amine | 61.8 mmol, 6.86 g | C(C)N1N=C(C=C1)N | C5H9N3
reactant | DIPEA | 21.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
product | N-(1-Ethyl-1H-pyrazol-3-yl)-3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(phenylmethyl)oxy]benzamide | 19.1 g | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)O[C@H](COC)C)=O | C23H27N3O4
